US08895545B2
b) 7-Bromo-1,2,3,5-tetrahydro-pyrido[2,3-e][1,4]diazepine-4-carboxylic acid tert-butyl ester
A solution of 7-bromo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine (0.42 g, 1.8 mmol) in CH2C2 (20 mL) was treated with Et3N (0.34 mL, 2.4 mmol) followed by di-tert-butyl-dicarbonate (0.44 g, 2.0 mmol). After stirring for 1 h, the reaction was concentrated to a white solid. Purification by flash column chromatography (silica gel, CH2Cl2/MeOH, 99:1) gave the title compound (0.55 g, 91%) as a white solid and as a mixture of rotamers: 1NMR (300 MHz, CDCl3) δ8.06 (s, 1H), 8.59-8.45 (m, 1H), 4.90 (s, 1H), 4.35-4.27 (m, 2H), 3.66-3.65 (m, 2H), 3.29-3.24 (m, 2H), 1.42 (s, 9H); MS (ESI) m/e 328 (M+H)+.

reactant | 7-bromo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine | 1.8 mmol, 0.42 g | BrC1=CC2=C(NCCNC2)N=C1 | C8H10BrN3
reactant | Et3N | 2.4 mmol, 0.34 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 2.0 mmol, 0.44 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 7-Bromo-1,2,3,5-tetrahydro-pyrido[2,3-e][1,4]diazepine-4-carboxylic acid tert-butyl ester | 0.55 g, 91% | C(C)(C)(C)OC(=O)N1CCNC2=C(C1)C=C(C=N2)Br | C13H18BrN3O2
